US06297261B1
5-(2-Aminophenyl)tetrazole
2-Aminobenzonitrile (9.44 g, 80 mmol), sodium azide, (6.24 g, 0.1 mol), ammonium chloride (5.12 g, 0.1 mol) and dimethylformamide (50 mL) were mixed and heated at 120° C. overnight. The solvent was evaporated and the residue taken up in water. The crude product was isolated by filtration and recrystallised from water. A yield of 8.4 g of pure product was obtained

reactant | 2-Aminobenzonitrile | 80 mmol, 9.44 g | NC1=C(C#N)C=CC=C1 | C7H6N2
reactant | sodium azide | 0.1 mol, 6.24 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.1 mol, 5.12 g | [Cl-].[NH4+]
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 5-(2-Aminophenyl)tetrazole | yield of 8.4 g | NC1=C(C=CC=C1)C1=NN=NN1 | C7H7N5
